US05180742
1,2-Dichloroethane (15 ml) was added to 0.76 g (5.0 mmole) of trimethylhydroquinone and 1.45 g (5.0 mmole) of 7-(3-trifluoromethylphenyl)-7-hydroxyheptanoic acid, and the mixture was warmed to 80° C. under stirring and admixed with 0.19 ml (5.0×0.3 mmole) of boron trifluoride ethyl etherate, followed by stirring at 80° C. for 2 hours. After the reaction solution was cooled by standing at room temperature, the solvent was distilled off, and the residue was dissolved in tetrahydrofuran (15 ml). A solution of 2.7 g (10.0 mmole) of ferric chloride in water (10 ml) was added to the solution, followed by stirring at room temperature for 20 minutes. The tetrahydrofuran was distilled off, and ethyl acetate was added to the residue to carry out extraction. The organic layer was separated out, washed with aqueous sodium chloride solution, dried (magnesium sulfate) and evaporated, and the residue was chromatographed on a silica gel column chromatography, followed by elution with isopropyl ether. The fractions containing the object compound were collected and concentrated under reduced pressure, and the residue was recrystallized from isopropyl ether-hexane to give 0.50 g (24%) of 7-(3-trifluoromethylphenyl)-7-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)heptanoic acid.

reactant | 1,2-Dichloroethane | 15 ml | ClCCCl | C2H4Cl2
reactant | trimethylhydroquinone | 5.0 mmole, 0.76 g | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | 7-(3-trifluoromethylphenyl)-7-hydroxyheptanoic acid | 5.0 mmole, 1.45 g | FC(C=1C=C(C=CC1)C(CCCCCC(=O)O)O)(F)F | C14H17F3O3
reactant | boron trifluoride ethyl etherate | 0.3 mmole, 0.19 ml | B(F)(F)F.CCOCC
solvent | water | 10 ml | O | H2O
product | 7-(3-trifluoromethylphenyl)-7-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)heptanoic acid | 0.50 g, 24% | FC(C=1C=C(C=CC1)C(CCCCCC(=O)O)C=1C(C(=C(C(C1C)=O)C)C)=O)(F)F | C23H25F3O4
